Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11][H:12]>>[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16],-4.572167242819999
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9],5.6394668344
[H:1][C:2]([H:3])=[C:4]([C:5][O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])/[C:4](=[C:5]1\[O:6][C:7]1([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.3578296801400005
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],5.10358523955
[C:1]#[C:2][C@:3]([H:4])([C:5]#[C:6][H:7])[O:8].[H:9]>>[C:1]#[C:2][C@:3]([H:4])([C:5]#[C:6][H:7])[O:8][H:9],-4.83239529822
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],4.609327615530001
[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7]([H:8])=[O:9]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-3.628688511630002
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7].[C:8]([H:9])([H:10])[O:11][H:12]>>[C:1]#[C:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.4539588252
[H:12].[H:1][O:2][C@:3]([C:4]([H:5])=[C:6]([H:7])[H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.62994111679
[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[C:8][C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3]([H:4])([H:5])[C:6][H:7],6.9806794748800005
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:4],1.7678524292200002
[H:1][C:2]([H:3])=[C:4][C:5]1=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])[C:11]([C:8]([C:6]#[C:5][C:4]([H:7])[H:10])[H:9])([H:12])[H:13],0.435235963419
[H:1][C:2]=[C:3]([H:4])[H:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-0.81182403895
[C:1][C:2][O:3].[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-1.13630223005
[H:1][C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8](=[O:9])[C:11]([H:12])([H:13])[H:14],3.5218111528
[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:4][C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:3][C:6][H:5],5.44195728097
[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[O:11][H:12].[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[H:10],4.80867097877
[H:1][C:2]([H:3])=[C:4]([H:5])[C:13]([C:10]([O:9][C:6]([H:7])[H:8])([H:11])[H:12])([H:14])[H:15]>>[H:1][C:2]([H:3])[C@@:4]1([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],-0.70980624175
[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([C:3]#[C:4][C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8],2.63874069271
[H:11].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.25784688246
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7](=[C:8]/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]=[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],1.90218370815
[H:1][O:2][C:3]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.10576639825
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],0.0543540776798
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:7]/[O:8][C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-2.7904300824799995
[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9].[H:1],5.56009228411
[C:3](=[C:4]([H:5])[H:6])=[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.14679429616
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:6],1.7706438006
